US04655971
Valeric anhydride (15.03 ml; 75.05 mmoles) and trifluoroacetic acid (13.20 ml; 172.48 mmoles) were mixed at 0° C., then methanesulphonic acid (1.25 ml) followed by 9α-fluoro-11β,17α-dihydroxy-21,21-di-iodo-16β-methylpregna-1,4-diene-3,20-dione 11-trifluoroacetate (25.00 g; 34.52 mmoles) were added. After stirring for two hours, the reaction mixture was poured slowly into a 0.025M disodium hydrogen phosphate solution. The aqueous phase was decanted off, and the residue dissolved in 50% acetone:methanol. After precipitation in ice cold water, the product was filtered, washed well with water, and dried at 35° C. to yield 27.55 g. An analytical sample of this unstable product was obtained from aqueous methanol in the presence of a small amount of p-toluenesulphonic acid. The iodine content was found to be 28.5%.

reactant | Valeric anhydride | 75.05 mmoles, 15.03 ml | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
reactant | trifluoroacetic acid | 172.48 mmoles, 13.20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanesulphonic acid | 1.25 ml | CS(=O)(=O)O | CH4O3S
reactant | disodium hydrogen phosphate | 0.025M | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
product | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
